US08114868B2
3-((R)-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-2-oxo-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile
The title compound was prepared from 3-((R)-6-(4-fluorophenyl)-2-oxo-3-((S) -1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile and 5-bromo-1-methylpyridin-2(1H)-one following a procedure analogous to that described in Example 3 Step 2. LC-MS Method 1 tR=1.45 min, m/z=488; 1H NMR (CDCl3) 7.68(dd, 1H), 7.52(d, 1H), 7.32(q, 2H), 7.17(d, 2H), 7.06(t, 2H), 6.97(d, 2H), 6.91(d, 1H), 5.66(q, 1H), 3.72(s, 3H), 2.99(dt, 1H), 2.48(dd, 2H), 2.27(m, 1H), 2.11(s, 2H), 1.55(d, 3H), 1.44(s, 3H), 1.34(s, 3H).

reactant | 3-((R)-6-(4-fluorophenyl)-2-oxo-3-((S) -1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC(C#N)(C)C | C29H36BFN2O4
reactant | 5-bromo-1-methylpyridin-2(1H)-one | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
product | 3-((R)-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-2-oxo-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)CC(C#N)(C)C | C29H30FN3O3
